US06825351B2
Reaction of N-(isoquinol-1-yl)acetamide (159 mg, 0.854 mmol) using the general procedure for small scale hydrogenations (workup with NaOH in place of saturated NaHCO3) provided N-(5,6,7,8-tetrahydroisoquinolin-1-yl)acetamide (96 mg, 59%): 1H NMR δ 1.74-1.76 (m, 4H), 2.16-2.19 (m, 3H), 2.60-2.70 (m, 2H), 2.70-2.76 (m, 2H), 6.86 (d, 1H, J=5 Hz), 8.03 (d, 1H, J=5 Hz); 13C NMR δ 22.3, 22.8, 23.8, 25.1, 29.6, 122.9, 144.4 (2C), 149.5, 150.2, 170.6; MS m/z: 213 (M+Na+). N-(1,2,3,4-tetrahydroisoquinolin-1-yl)acetamide also was isolated (16 mg, 11%): 1H NMR δ 2.28 (m, 3H), 2.96-3.01 (m, 2H), 3.56-3.61 (m, 2H), 7.20 (d, 1H, J=8 Hz), 7.33-7.38 (m, 1H), 7.44-7.49 (m, 1H), 8.27 (d, 1H, J=8 Hz); 13C NMR δ27.2, 28.7, 29.7, 39.3, 127.3, 127.5, 128.0, 132.6, 137.9, 162.8, 188.0; MS m/z: 191 (M+H+).

reactant | N-(isoquinol-1-yl)acetamide | 0.854 mmol, 159 mg | C1(=NC=CC2=CC=CC=C12)NC(C)=O | C11H10N2O
reactant | NaOH | [OH-].[Na+]
product | N-(5,6,7,8-tetrahydroisoquinolin-1-yl)acetamide | 96 mg, 59% | C1(=NC=CC=2CCCCC12)NC(C)=O | C11H14N2O
